US09376443B2
1-(6-[tert-Butyldimethylsilyloxymethyl]pyridine-2-yl)-1-cyclohexanol
Prepared from 6-bromo-O-(tert-butyldimethylsilyl)-2-pyridinemethanol and cyclohexanone by the method described in Example 10 to give the title compound (0.49 g, 15%) as a yellow oil; NMR δH (400 MHz, CDCl3) 0.13 (6H, s), 0.96 (9H, s), 1.61-1.91 (10H, m), 4.82 (2H, s), 5.17 (1H, s), 7.21 (1H, dd, J 8.0 Hz, 1.0 Hz), 7.38 (1H, dd, J 7.5 Hz), 1.0 Hz), 7.71 (1H, t, J 7.5 Hz). TLC (Hex:EtOAc (9:1)) Rf=0.30**

reactant | 6-bromo-O-(tert-butyldimethylsilyl)-2-pyridinemethanol | BrC1=CC=CC(=N1)CO[Si](C)(C)C(C)(C)C | C12H20BrNOSi
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
product | 1-(6-[tert-Butyldimethylsilyloxymethyl]pyridine-2-yl)-1-cyclohexanol | 0.49 g, 15% | [Si](C)(C)(C(C)(C)C)OCC1=CC=CC(=N1)C1(CCCCC1)O | C18H31NO2Si
